US04576749
(A) (3S-cis)-N-[[3-[[(t-Butyloxy)carbonyl]amino]-4-methyl-2-oxo-1-azetidinyl]carbonyl]glycine, t-butyl ester
To a suspension of potassium cyanate (558 mg, 6.9 mmol) in 6 ml of dimethylformamide was added t-butyl bromoacetate (1.1 ml, 6.6 mmol). The mixture was heated to 100° C. for 1 hour and cooled to room temperature. (3s-cis)-3-[[(t-butyloxy)carbonyl]amino]-4-methyl-2-azetidinone (1.2 g, 6.0 mmol) was then added, and the mixture was heated to 65° C. After being stirred at 65° C. for 1 hour, the mixture was heated to 100° C. and stirred for an additional hour. Additional isocyanate was prepared (using 558 mg potassium cyanate and 1.1 ml of t-butyl bromoacetate as described above) and added to the reaction mixture at room temperature. After being heated at 65° C. for 1 hour and 100° C. for 1 hour, the reaction mixture was stirred at room temperature overnight.

reactant | potassium cyanate | 6.9 mmol, 558 mg | [O-]C#N.[K+]
reactant | t-butyl bromoacetate | 6.6 mmol, 1.1 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | (3s-cis)-3-[[(t-butyloxy)carbonyl]amino]-4-methyl-2-azetidinone | 6.0 mmol, 1.2 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N[C@@H]1C)=O | C9H16N2O3
reactant | potassium cyanate | 558 mg | [O-]C#N.[K+]
reactant | t-butyl bromoacetate | 1.1 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | (3S-cis)-N-[[3-[[(t-Butyloxy)carbonyl]amino]-4-methyl-2-oxo-1-azetidinyl]carbonyl]glycine, t-butyl ester | C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@@H]1C)C(=O)NCC(=O)OC(C)(C)C)=O | C16H27N3O6
